US07795267B2
Tetrahydro-3-oxo-1,1-diphenyl-N-(8-quinolinyl)-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
8-Quinolinecarboxylic acid (0.17 g, 1.0 mmol) was suspended in toluene (5 mL). With ice cooling, triethylamine (0.14 mL, 1.0 mmol) and diphenylphosphoryl azide (0.28 g, 1.0 mmol) were sequentially added thereto, and the mixture was stirred at room temperature for 1 hour and then at 80° C. for 3 hour. After cooling to 50° C., tetrahydrofuran (5 mL) and hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (88 mg, 0.30 mmol) were added thereto, and the mixture was stirred at 50° C. overnight. The reaction solution was cooled to room temperature and ethyl acetate was added thereto. The resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=4:1 to ethyl acetate) to obtain the title compound (46 mg, yield 33%).

reactant | 8-Quinolinecarboxylic acid | 1.0 mmol, 0.17 g | N1=CC=CC2=CC=CC(=C12)C(=O)O | C10H7NO2
reactant | triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.0 mmol, 0.28 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.30 mmol, 88 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Tetrahydro-3-oxo-1,1-diphenyl-N-(8-quinolinyl)-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 46 mg, yield 33% | O=C1OC(C2N1CCN(C2)C(=O)NC=2C=CC=C1C=CC=NC21)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H24N4O3
